US09233946B2
7-Chloro-N-[3-(1H-tetrazol-5-yl)phenyl]-2,1,3-benzoxadiazole-4-sulfonamide
The product was prepared according to General Procedure 6, described in Example 65, with 4-chloro-7-chlorosulfonyl-2,1,3-benzoxadiazole (13.9 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 52% yield (9.8 mg). MS (ESI+) calcd mass for C13H8ClN7O3S 377.009786, found 377.010126.

reactant | 4-chloro-7-chlorosulfonyl-2,1,3-benzoxadiazole | 0.055 mmol, 13.9 mg | ClC1=CC=C(C2=NON=C21)S(=O)(=O)Cl | C6H2Cl2N2O3S
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 7-Chloro-N-[3-(1H-tetrazol-5-yl)phenyl]-2,1,3-benzoxadiazole-4-sulfonamide | 52% yield | ClC1=CC=C(C=2C1=NON2)S(=O)(=O)NC2=CC(=CC=C2)C2=NN=NN2 | C13H8ClN7O3S
